US04835153
Diisopropyl(2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate (compound No. 2)
To a suspension of 2.5 g of glyoxal-sodium bisulfite in 10 ml of water was added dropwise 0.5 g of ethylenediamine with ice-cooling and the mixture was stired for additional 1 hour. To this solution was added dropwise with ice-cooling the dithiolate aqueous solution which had been prepared previously by the reaction of 1.5 g of diisopropyl malonate with 0.8 g of carbon disulfide in the presence of 3.3 g of 30% aqueous potassium hydroxide.

reactant | glyoxal-sodium bisulfite | 2.5 g | S([O-])(O)=O.[Na+].C(=O)C=O
reactant | ethylenediamine | 0.5 g | C(CN)N | C2H8N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | diisopropyl malonate | 1.5 g | C(CC(=O)OC(C)C)(=O)OC(C)C | C9H16O4
reactant | potassium hydroxide | 3.3 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | carbon disulfide | 0.8 g | C(=S)=S | CS2
product | Diisopropyl(2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate | C(C)(C)OC(C(C(=O)OC(C)C)=C1SC2NCCNC2S1)=O | C14H22N2O4S2
